US09126945B2
2-Chloro-5-({[1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzenecarboxylic acid
5.75 g (11.9 mmol) of methyl 2-chloro-5-({[1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoate are dissolved in 30 ml of methanol p.A., and 15.0 ml (30.0 mmol) of 2 N aqueous sodium hydroxide solution are then added. The reaction mixture is stirred at room temperature for 16 hours. The reaction solution is acidified carefully with 6 N hydrochloric acid, and the aqueous phase is then extracted three times with ethyl acetate. The combined organic phases are washed once with saturated sodium chloride solution, dried over sodium sulphate and filtered. The solvent is removed under reduced pressure on a rotary evaporator. This gives 5.57 g of 2-chloro-5-({[1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzenecarboxylic acid as a colourless solid.

reactant | methyl 2-chloro-5-({[1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzoate | 11.9 mmol, 5.75 g | ClC1=C(C(=O)OC)C=C(C=C1)NC(=O)C1=C(C(=NN1C)C(C(F)(F)F)(F)F)C(F)(F)F | C16H10ClF8N3O3
reactant | sodium hydroxide | 30.0 mmol, 2 N, 15.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 2-Chloro-5-({[1-methyl-3-(pentafluoroethyl)-4-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl}amino)benzenecarboxylic acid | ClC1=C(C=C(C=C1)NC(=O)C1=C(C(=NN1C)C(C(F)(F)F)(F)F)C(F)(F)F)C(=O)O | C15H8ClF8N3O3
